US08034812B2
Production of N-[5-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-2-methylphenyl]-4-methyl-2-oxo-2,3-dihydro-1,3-oxazole-5-carboxamide
In the same manner as in Example 259 and using 4-methyl-2-oxo-2,3-dihydro-1,3-oxazole-5-carboxylic acid (159 mg, 1.1 mmol), tetrahydrofuran (5 mL), N,N-dimethylformamide (1 drop), oxalyl chloride (382 μL, 4.44 mmol), N-[6-(3-amino-4-methylphenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide (300 mg, 0.93 mmol) and N,N-dimethylacetamide (7 mL) as starting materials, the title compound (145 mg, 35%) was obtained as a white solid.

reactant | 4-methyl-2-oxo-2,3-dihydro-1,3-oxazole-5-carboxylic acid | 1.1 mmol, 159 mg | CC=1NC(OC1C(=O)O)=O | C5H5NO4
reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
reactant | oxalyl chloride | 4.44 mmol, 382 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-[6-(3-amino-4-methylphenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 0.93 mmol, 300 mg | NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=CC1C | C17H17N5O2
catalyst | N,N-dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
solvent | N,N-dimethylacetamide | 7 mL | CN(C(C)=O)C | C4H9NO
product | N-[5-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-2-methylphenyl]-4-methyl-2-oxo-2,3-dihydro-1,3-oxazole-5-carboxamide | 145 mg, 35% | C1(CC1)C(=O)NC=1N=C2N(N=C(C=C2)OC=2C=CC(=C(C2)NC(=O)C2=C(NC(O2)=O)C)C)C1 | C22H20N6O5
